US08114874B2
1-(Bromomethyl)-2-chloro-4-nitro-benzene:
A suspension of 2-chloro-4-nitrotoluene (10.0 g, 58.3 mmol), N-bromosuccinimide (NBS, 10.9 g, 61.2 mmol), and 2,2′-azobis(2-methylpropionitrile) (AIBN, 0.29 9, 1.75 mmol) in 120 mL of CCl4 was heated at reflux under an atmosphere of N2 for 12 h. The reaction mixture was cooled to ambient temperature, and the solid was filtered and washed with EtOAc. The combined filtrate was washed with aq. NaHCO3, dried over Na2SO4, filtered, concentrated on rotovap, and further dried under vacuum. 1H NMR indicated the ratio of desired product to unreacted 2-chloro-4-nitrotoluene to be 50:50, This material was used directly in the next step.

reactant | 2-chloro-4-nitrotoluene | 58.3 mmol, 10.0 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6ClNO2
reactant | N-bromosuccinimide | 61.2 mmol, 10.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | 1.75 mmol | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | CCl4 | 120 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(Bromomethyl)-2-chloro-4-nitro-benzene | BrCC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C7H5BrClNO2
